US08604050B2
20.2 Ethyl 5-trifluoromethyl-1-[(thiazol-2-yl)]methyl-1H-indole-2-carboxylate
To a suspension of 87 mg (1.983 mmol) of sodium hydride (55%) in 10 mL of dry DMF, maintained under an inert atmosphere, are added dropwise, at room temperature, 340 mg (1.322 mmol) of ethyl 5-trifluoromethyl-1H-indole-2-carboxylate in 5 mL of dry DMF. The reaction mixture is stirred at 50° C. for 1 hour. A solution of 265 mg (1.983 mmol) of 2-(chloromethyl)thiazole, prepared according to the protocol described in the preceding step, in 10 mL of THF is then added dropwise, at 0° C. The reaction mixture is then stirred for 20 hours at room temperature, and then diluted with 100 mL of ethyl acetate. The aqueous phase is extracted with 30 mL of ethyl acetate. The combined organic phases are washed successively with saturated aqueous sodium hydrogen carbonate solution, with water, with saturated aqueous sodium chloride solution and then dried over sodium sulfate, filtered and concentrated under reduced pressure. The resulting oil is purified by chromatography on a column of silica, eluting with a mixture of heptane and ethyl acetate. 265 mg of the expected product are isolated in the form of a colourless oil.

reactant | sodium hydride | 1.983 mmol, 87 mg | [H-].[Na+]
reactant | ethyl 5-trifluoromethyl-1H-indole-2-carboxylate | 1.322 mmol, 340 mg | FC(C=1C=C2C=C(NC2=CC1)C(=O)OCC)(F)F | C12H10F3NO2
reactant | 2-(chloromethyl)thiazole | 1.983 mmol, 265 mg | ClCC=1SC=CN1 | C4H4ClNS
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 5-trifluoromethyl-1-[(thiazol-2-yl)]methyl-1H-indole-2-carboxylate | 265 mg | FC(C=1C=C2C=C(N(C2=CC1)CC=1SC=CN1)C(=O)OCC)(F)F | C16H13F3N2O2S
